US06204293B1
1-(3-chlorophenyl)pentan-1-ol
A solution of 3-chlorobenzaldehyde (1.4 g, 10 mmol) in THF (10 mL) was cooled to −10° C., then 2.0 M n-butylmagnesium chloride (10 mL) was added. The reaction was allowed to warm to RT under N2 overnight. Next day the reaction was cooled to 0−5° C., water (5 mL) was added, followed by 2N HCl—Et2O partition. The organic layer was washed with brine, then dried over Na2SO4. After filtration and concentration the crude material was purified by chromatography using 9/1 hex/EtOAc. Recovered 1.25 g (63%).

reactant | 3-chlorobenzaldehyde | 10 mmol, 1.4 g | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | n-butylmagnesium chloride | 2.0 M, 10 mL | C(CCC)[Mg]Cl
reactant | water | 5 mL | O | H2O
reactant | HCl Et2O | 2N | Cl.CCOCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3-chlorophenyl)pentan-1-ol | ClC=1C=C(C=CC1)C(CCCC)O | C11H15ClO
